US03953460
Reaction of 1-nitro-2-methylthio-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene with an excess of 2-[(2-aminoethyl)thiomethyl]thiazole according to the procedure of Example 2 (ii) results in the production of 1-nitro-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-2-[2-(2-thiazolylmethylthio)ethylamino]ethylene.

reactant | 1-nitro-2-methylthio-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC1=C(N=CN1)C)SC | C10H16N4O2S2
reactant | 2-[(2-aminoethyl)thiomethyl]thiazole | NCCSCC=1SC=CN1 | C6H10N2S2
product | 1-nitro-2-[2-((4-methyl-5-imidazolyl)methylthio)ethylamino]-2-[2-(2-thiazolylmethylthio)ethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCC=1SC=CN1)NCCSCC1=C(N=CN1)C | C15H22N6O2S3
